US03966965
The crystallized 2-nitro-6-(2-phenoxyethoxy)benzonitrile (5.82 g, 0.0205 mole) is stirred in 116 ml absolute ethanol at 50°C. and 3.62 ml. (0.0615 mole) 85 per cent hydrazine hydrate is added, followed by small scoops of Raney nickel. The temperature is kept at 50°-60°C. while the Raney nickel is added, and after gas evolution and the exotherm ceases, the mixture is filtered through diatomaceous earth. The filter cake is washed with hot ethanol and the filtrate is concentrated, giving 2.804 g of 2-amino-6-(2-phenoxyethoxy)benzamide m.p. 127°-130°C.

reactant | 2-nitro-6-(2-phenoxyethoxy)benzonitrile | 0.0205 mole, 5.82 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCCOC1=CC=CC=C1 | C15H12N2O4
reactant | hydrazine hydrate | O.NN
solvent | ethanol | 116 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 2-amino-6-(2-phenoxyethoxy)benzamide | 2.804 g | NC1=C(C(=O)N)C(=CC=C1)OCCOC1=CC=CC=C1 | C15H16N2O3
